US07713994B2
A mixture of 3-(4-acetamidophenyl)propanal (96 mg, 0.50 mmol), methoxy]amine hydrochloride (92 mg, 1.1 mmol), and pyridine (110 μL) in methanol (0.7 mL) is heated in a 70° C. oil bath for 18 hours and then allowed to cool to room temperature. Methanol (1 mL) is added and the mixture is cooled to 0° C. in an ice-water bath. Borane.pyridine complex (0.11 mL, 1.1 mmol) is added, followed by the dropwise addition of 10% aqueous hydrochloric acid. The mixture is allowed to warm to room temperature and then concentrated under reduced pressure. The residue is purified by reverse-phase HPLC to give N-[4-(3-methoxyamino-propyl)-phenyl]-acetamide.

reactant | 3-(4-acetamidophenyl)propanal | 0.50 mmol, 96 mg | C(C)(=O)NC1=CC=C(C=C1)CCC=O | C11H13NO2
reactant | pyridine | 110 μL | N1=CC=CC=C1 | C5H5N
reactant | Borane | B | BH3
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 0.7 mL | CO | CH4O
reactant | Methanol | 1 mL | CO | CH4O
product | N-[4-(3-methoxyamino-propyl)-phenyl]-acetamide | CONCCCC1=CC=C(C=C1)NC(C)=O | C12H18N2O2
